US06890885B2
14.8 g (0.080 mol) of 3-cyclopropyl-3-oxo-propionic acid tert-butyl ester are dissolved in 25 ml of MeOH and 1.93 g (0.080 mol) of magnesium are added. 7 ml of carbon tetrachloride are added dropwise while cooling in an ice bath and the reaction mixture is stirred at 22° C. for 1 hour to complete the reaction. After concentrating by evaporation, the residue is suspended in 100 ml of acetonitrile and, at 22° C., 16.31 g (0.073 mol) of 2-methyl-6-trifluoromethyl-nicotinoyl chloride (prepared in the manner described in Example P1), dissolved in 50 ml of acetonitrile, are added dropwise. After 6 hours, the reaction mixture is taken up in ethyl acetate and washed with saturated sodium bicarbonate solution. The separated ethyl acetate phase is washed with water, dried over sodium sulfate and concentrated by evaporation. The residue is dissolved in 160 ml of methylene chloride and 10 ml of trifluoroacetic acid are added dropwise at 22° C. After 18 hours, the reaction mixture is poured into water and extracted with methylene chloride. The methylene chloride phase is washed with water and then with brine, dried over sodium sulfate and concentrated by evaporation. 17.3 g (88% of theory) of 1-cyclopropyl-3-(2-methyl-6-trifluoromethyl-pyridin-3-yl)-propane-1,3-dione are obtained in the form of an oil, which can be used further without purification.

reactant | 3-cyclopropyl-3-oxo-propionic acid tert-butyl ester | 0.080 mol, 14.8 g | C(C)(C)(C)OC(CC(=O)C1CC1)=O | C10H16O3
reactant | magnesium | 0.080 mol, 1.93 g | [Mg] | Mg
reactant | carbon tetrachloride | 7 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 2-methyl-6-trifluoromethyl-nicotinoyl chloride | 0.073 mol, 16.31 g | CC1=C(C(=O)Cl)C=CC(=N1)C(F)(F)F | C8H5ClF3NO
solvent | MeOH | 25 ml | CO | CH4O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-cyclopropyl-3-(2-methyl-6-trifluoromethyl-pyridin-3-yl)-propane-1,3-dione | 17.3 g, 88% | C1(CC1)C(CC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)=O | C13H12F3NO2
